2175-02-11 09:05:00 Physician Attending Progress Note
Chief Complaint: altered mental status
   HPI:
   68 yom transferred yesterday from OSH. H/o cirrhosis, presented to OSH
   yesterday with altered mental status, n/v, elevated Cr from baseline
   and possible pna noted on CXR.
   24 Hour Events:
   NGT placed and lactulose started.
   Para neg for SBP by white count.
   Pancultured.
   Started albumin 50 [**Hospital1 **] for possible HRS.
   Transfused for low Hct.
   Mental status mildly improved- pulled out NGT.
   ABG with resp alkalosis.
   Started Ctx for +UA.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Adhesive (Miscell)
   Skin tears and
   Last dose of Antibiotics:
   Levofloxacin - [**2175-2-10**] 03:38 PM
   Ceftriaxone - [**2175-2-11**] 03:59 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2175-2-11**] 07:58 AM
   Other medications:
   Albumin 50 [**Hospital1 **], Rifaximin, lactulose, Carafate, PPI, Nadolol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO
   Gastrointestinal: Nausea, Emesis
   Genitourinary: Foley
   Integumentary (skin): Jaundice
   Heme / Lymph: Coagulopathy
   Psychiatric / Sleep: Agitated
   Flowsheet Data as of  [**2175-2-11**] 09:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.7
C (96.2
   HR: 104 (72 - 107) bpm
   BP: 132/74(88) {92/56(72) - 147/130(133)} mmHg
   RR: 17 (12 - 22) insp/min
   SpO2: 98% on 3L
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                    938 mL
                                                                    851 mL
   PO:
           TF:
   IVF:
                                                                    176 mL
                                                                    138 mL
   Blood products:
                                                                    703 mL
                                                                    533 mL
   Total out:
                                                                  1,240 mL
                                                                    820 mL
   Urine:
                                                                  1,240 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -302 mL
                                                                     31 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.52/24/81.[**Numeric Identifier **]/18/0
   PaO2 / FiO2: 203
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: icterus
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Distended, reducible umb hernia
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, Jaundice
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   198 K/uL
   106 mg/dL
   1.8 mg/dL
   18 mEq/L
   4.7 mEq/L
   76 mg/dL
   109 mEq/L
   138 mEq/L
   25.2 %
   12.2 K/uL
        [image002.jpg]
                             [**2175-2-10**]  11:38 AM
                             [**2175-2-10**]  04:18 PM
                             [**2175-2-10**]  07:29 PM
                             [**2175-2-10**]  09:44 PM
                             [**2175-2-11**]  03:31 AM
                             [**2175-2-11**]  04:24 AM
   WBC
   11.9
   11.6
   12.2
   Hct
   23.3
   20.4
   25.2
   Plt
   298
   224
   198
   Cr
   2.5
   1.8
   TCO2
   19
   21
   20
   Glucose
   107
   106
   Other labs: PT / PTT / INR:20.7/42.1/2.0, ALT / AST:34/57, Alk Phos / T
   Bili:123/6.6, Differential-Neuts:75.5 %, Band:0.0 %, Lymph:14.6 %,
   Mono:6.2 %, Eos:3.5 %, Lactic Acid:2.9 mmol/L, Albumin:3.0 g/dL,
   LDH:339 IU/L, Ca++:10.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Fluid analysis / Other labs: Urine lytes FENa 0.4
   Microbiology: Blood, urine, para culture pending.
   Assessment and Plan
   1)Neuro/ID- altered mental status, likely hepatic encephalopathy plus
   ARF. Completing infectious workup, no s/o SBP. does have +UA, will
   follow up on that. Treating with Ctx for now, will hold Levo while he
   is on that. Continue lactulose/rifaximin.
   Has not had head CT- no focal deficit, so will hold off.
   2)Renal- prerenal vs. HRS, but improving with albumin and IVFs. holding
   diuretics.
   3)Liver- cirrhosis of unclear etiology, followed here by Dr. [**Last Name (STitle) **]. As
   above, cont Nadolol.
   4)Heme- anemia, thought due to known portal gastropathy. Received PRBC
   2Units overnight. Will follow labs for response. No clear active
   bleeding but will follow closely.
   5)Pulm- h/o IPF, not active currently.
   6)ICU- Full code, SQH, PPI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2175-2-10**] 11:46 AM
   18 Gauge - [**2175-2-10**] 11:54 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2175-02-11 12:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: AMS
   24 Hour Events:
 PAN CULTURE - At [**2175-2-10**] 11:45 AM
 PARACENTESIS - At [**2175-2-10**] 04:00 PM
   [**2175-2-10**]:
   - Admitted for AMS.
   - CXR without clear evidence of infection
   - NGT placed and given lactulose
   - paracentesis performed and negative for infection (3L)
   - given albumin 50g [**Hospital1 **]
   - Given FFP, DDAVP, 2U pRBCs
   - slight improvement throughout the night
   - stools guaiac positive, not grossly bloody
   History obtained from Medical records
   Allergies:
   History obtained from Medical recordsAdhesive (Miscell)
   Skin tears and
   Last dose of Antibiotics:
   Levofloxacin - [**2175-2-10**] 03:38 PM
   Ceftriaxone - [**2175-2-11**] 03:59 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2175-2-11**] 07:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-2-11**] 12:18 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.7
C (96.2
   HR: 89 (73 - 107) bpm
   BP: 117/66(76) {92/56(72) - 147/130(133)} mmHg
   RR: 15 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                    938 mL
                                                                  1,133 mL
   PO:
           TF:
   IVF:
                                                                    176 mL
                                                                    421 mL
   Blood products:
                                                                    703 mL
                                                                    533 mL
   Total out:
                                                                  1,240 mL
                                                                  1,225 mL
   Urine:
                                                                  1,240 mL
                                                                  1,225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -302 mL
                                                                    -92 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.52/24/81.[**Numeric Identifier **]/18/0
   PaO2 / FiO2: 203
   Physical Examination
   gen: icteric, restless
   heent: scleral icteris
   pulm: LLL rales, o/w ctab
   cv: hrrr, no m/r/g
   abd: distended but soft.  No BS
   extr: no c/c/e
   neuro: answers simple questions with one word, not oriented
   Labs / Radiology
   198 K/uL
   8.8 g/dL
   106 mg/dL
   1.8 mg/dL
   18 mEq/L
   4.7 mEq/L
   76 mg/dL
   109 mEq/L
   138 mEq/L
   25.2 %
   12.2 K/uL
        [image002.jpg]
                             [**2175-2-10**]  11:38 AM
                             [**2175-2-10**]  04:18 PM
                             [**2175-2-10**]  07:29 PM
                             [**2175-2-10**]  09:44 PM
                             [**2175-2-11**]  03:31 AM
                             [**2175-2-11**]  04:24 AM
   WBC
   11.9
   11.6
   12.2
   Hct
   23.3
   20.4
   25.2
   Plt
   298
   224
   198
   Cr
   2.5
   1.8
   TCO2
   19
   21
   20
   Glucose
   107
   106
   Other labs: PT / PTT / INR:20.7/42.1/2.0, ALT / AST:34/57, Alk Phos / T
   Bili:123/6.6, Differential-Neuts:75.5 %, Band:0.0 %, Lymph:14.6 %,
   Mono:6.2 %, Eos:3.5 %, Lactic Acid:2.9 mmol/L, Albumin:3.0 g/dL,
   LDH:339 IU/L, Ca++:10.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   68 yo male with PMH of cirrhosis and AMS, worsening renal failure, and
   anemia.
   .
   # AMS: Given history and complaints, most likely etiology is hepatic
   encephalopathy.  Other sources of delirium should be ruled out such as
   medications (none new) and infections.  Certainly, infection is a risk
   factor for worsening hepatic encephalopathy.  Peritoneal fluid is
   negative for SBP by WBCs.  GIB is also a risk factor and he has
   esophageal varices by history, though there is no history of BRBPR,
   melena, or hematemesis.  No other localizing source of infection.
   Blood loss suggests GI source especially given known portal
   gastropathy.  Slow improvement while in ICU.
   - NGT placed, lactulose 60 TID, titrate for BMs
   - Rifaximin
   - monitor ABG for worsening respiratory status
   - infectious workup
   .
   # Renal failure: concerning for hepatorenal syndrome.  Fena 0.4
   suggesting prerenal component.  Improved overnight
   - albumin 50g [**Hospital1 **] x 96 hrs
   - volume resuscitation
   - follow
   - cont to hold diuretics
   .
   # cirrhosis: unknown etiology though autoimmune thought likely with
   iron overload.  Liver following.
   - tx of hepatic encephalopathy and possible hepatorenal syndrome as
   above
   - cont nadolol
   .
   # Anemia: known portal gastropathy.  HCT trending down here.  Guaiac
   positive, though no gross blood/melena.  No suggestion of large
   variceal bleed. Received 2U pRBCs yesterday.
   - type and screen
   - maintain IV access
   - transfuse 2 U pRBCs now
   - q 8 HCT overnight, reassess in AM
   - transfuse prn, required 2 units yesterday
   - if significant drop, must consider variceal bleed as possible cause.
   # IPF: followed by pulmonology.  not thought to be contraindication for
   transplant in him.
   - follow
   .
   # HTN: on no treatment at home and not HTN here
   .
   # PAD: s/p stent.  No acute issues.
   .
   # FEN: NPO, replete lytes prn
   .
   # prophylaxis: sc heparin, PPE
   .
   # Code: full
   .
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   22 Gauge - [**2175-2-10**] 11:46 AM
   18 Gauge - [**2175-2-10**] 11:54 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2175-02-12 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: AMS
   24 Hour Events:
   -NGT placement unsuccessful. Placed a dob hoff. position confirmed w/
   Xray
   -Blood cx from [**2-10**] growing GPCs. started vanc
   - Writted for 1L D5W for Na of 147, finger sticks and IRSS ordered
   Allergies:
   Adhesive (Miscell)
   Skin tears and
   Last dose of Antibiotics:
   Levofloxacin - [**2175-2-10**] 03:38 PM
   Ceftriaxone - [**2175-2-11**] 03:59 AM
   Vancomycin - [**2175-2-11**] 01:50 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2175-2-11**] 04:09 PM
   Heparin Sodium (Prophylaxis) - [**2175-2-11**] 09:23 PM
   Carafate (Sucralfate) - [**2175-2-12**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from [**Year (4 digits) 4298**] except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-2-12**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.5
   HR: 90 (86 - 106) bpm
   BP: 115/49(66) {114/46(63) - 148/83(95)} mmHg
   RR: 16 (15 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  2,679 mL
                                                                  1,095 mL
   PO:
           TF:
   IVF:
                                                                  1,367 mL
                                                                    745 mL
   Blood products:
                                                                    733 mL
                                                                    200 mL
   Total out:
                                                                  2,085 mL
                                                                    850 mL
   Urine:
                                                                  2,085 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    594 mL
                                                                    245 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   Gen: confused, drowsy
   Heent: icteric
   Pulm: mild wheezing, o/w ctab
   Cv: hrrr, no m/r/g
   Abd: s/nt  distended though not tense
   Extr: no c/c/e
   Neuro: no oriented, answers yes/no appropriately
   Labs / Radiology
   196 K/uL
   8.2 g/dL
   154 mg/dL
   1.4 mg/dL
   20 mEq/L
   3.8 mEq/L
   61 mg/dL
   114 mEq/L
   145 mEq/L
   24.2 %
   13.5 K/uL
        [image002.jpg]
                             [**2175-2-10**]  11:38 AM
                             [**2175-2-10**]  04:18 PM
                             [**2175-2-10**]  07:29 PM
                             [**2175-2-10**]  09:44 PM
                             [**2175-2-11**]  03:31 AM
                             [**2175-2-11**]  04:24 AM
                             [**2175-2-11**]  11:49 AM
                             [**2175-2-11**]  05:00 PM
                             [**2175-2-11**]  09:26 PM
                             [**2175-2-12**]  05:35 AM
   WBC
   11.9
   11.6
   12.2
   12.7
   12.6
   13.5
   Hct
   23.3
   20.4
   25.2
   23.1
   23.0
   22.9
   24.2
   Plt
   298
   224
   198
   180
   195
   196
   Cr
   2.5
   1.8
   1.7
   1.4
   TCO2
   19
   21
   20
   Glucose
   107
   106
   110
   154
   Other labs: PT / PTT / INR:25.5/62.2/2.5, ALT / AST:34/57, Alk Phos / T
   Bili:123/6.6, Differential-Neuts:75.5 %, Band:0.0 %, Lymph:14.6 %,
   Mono:6.2 %, Eos:3.5 %, Lactic Acid:2.9 mmol/L, Albumin:3.0 g/dL,
   LDH:339 IU/L, Ca++:11.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   68 yo male with PMH of cirrhosis and AMS, worsening renal failure, and
   anemia.
   # AMS: Given history and complaints, most likely etiology is hepatic
   encephalopathy.  Also has coag neg staph in 2 BCx which could
   precipitate hepatic encephalopathy.  Had a positive UA, but UCx
   negative.  Paracentesis fluid NTD and did not meet criteria for SBP by
   WBC.  GIB is also a risk factor and he has esophageal varices by
   history, though there is no history of BRBPR, melena, or hematemesis.
    He is guaiac negative and anemic, required 2U pRBCs shortly after
   [**Year (4 digits) 4298**].  Slight improvement in MS [**First Name (Titles) 4059**] [**Last Name (Titles) 4298**].
   - NGT placed, lactulose 60 TID, titrate for BMs
   - Rifaximin
   - infectious workup and continue antbiotics for bacteremia and
   prophylactic levofloxacin (stopped briefly because on CTX for positive
   UA, which has since been d/c
d when urine cx came back negative.
   - follow anemia as below
   .
   # bacteremia: GPCs in blood. Antibiotics as above.
   - cont vanc
   - ECHO for vegetations
   .
   # Renal failure: initially concerning for hepatorenal syndrome.  Fena
   0.4 suggesting prerenal component.  Has responded to albumin and fluid,
   so not likely hepatorenal.  Near baseline now.
   - cont volume resuscitation
   - follow
   .
   # cirrhosis: unknown etiology though autoimmune thought likely with
   iron overload.  Liver following.
   - tx of hepatic encephalopathy and possible hepatorenal syndrome as
   above
   - cont nadolol
   .
   # Anemia: known portal gastropathy.  HCT trending down here.  Guaiac
   positive, though no gross blood/melena.  No suggestion of large
   variceal bleed. Received 2U pRBCs upon [**Last Name (Titles) 4298**].
   - maintain type and screen
   - maintain IV access
   - transfuse pRBCs for HCT < 23
   - PM HCT
   - if significant drop, must consider variceal bleed as possible cause.
    .
   # Hypercalcemia: unclear cause.  Has known liver lesion, ? mets.  Also,
   with anemia, renal failure, and hypercalcemia, multiple myeloma is a
   consideration
   - fluid
   - lasix
   - spep/upep
   - pm lytes
   - check PTH
   # IPF: followed by pulmonology.  not thought to be contraindication for
   transplant in him.
   - follow
   .
   # HTN: on no treatment at home and not HTN here
   .
   # PAD: s/p stent.  No acute issues.
   .
   # FEN: NPO, replete lytes prn
   .
   # prophylaxis: sc heparin, PPI
   .
   # Code: full
   .
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2175-2-10**] 11:46 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2175-02-12 10:49:00 Physician Attending Progress Note
Chief Complaint: altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   NGT replaced with Dophoff.
   [** 229**] cultures with GPC so started Vanc.
   Started D5W for elevated Na.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Adhesive (Miscell)
   Skin tears and
   Last dose of Antibiotics:
   Levofloxacin - [**2175-2-10**] 03:38 PM
   Ceftriaxone - [**2175-2-11**] 03:59 AM
   Vancomycin - [**2175-2-11**] 01:50 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2175-2-11**] 04:09 PM
   Carafate (Sucralfate) - [**2175-2-12**] 04:00 AM
   Heparin Sodium (Prophylaxis) - [**2175-2-12**] 08:00 AM
   Other medications:
   Rifaximin, Lactulose, Nadolol, ISS
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-2-12**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.3
C (97.4
   HR: 81 (81 - 97) bpm
   BP: 140/77(92) {114/46(63) - 148/83(95)} mmHg
   RR: 14 (14 - 26) insp/min
   SpO2: 98% 2LNC
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  2,679 mL
                                                                  1,350 mL
   PO:
           TF:
   IVF:
                                                                  1,367 mL
                                                                  1,000 mL
   [**Year (4 digits) 229**] products:
                                                                    733 mL
                                                                    200 mL
   Total out:
                                                                  2,085 mL
                                                                  1,050 mL
   Urine:
                                                                  2,085 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    594 mL
                                                                    300 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: icterus
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   upper airway sounds
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, Jaundice, ecchymoses
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   196 K/uL
   154 mg/dL
   1.4 mg/dL
   20 mEq/L
   3.8 mEq/L
   61 mg/dL
   114 mEq/L
   145 mEq/L
   24.2 %
   13.5 K/uL
        [image002.jpg]
                             [**2175-2-10**]  11:38 AM
                             [**2175-2-10**]  04:18 PM
                             [**2175-2-10**]  07:29 PM
                             [**2175-2-10**]  09:44 PM
                             [**2175-2-11**]  03:31 AM
                             [**2175-2-11**]  04:24 AM
                             [**2175-2-11**]  11:49 AM
                             [**2175-2-11**]  05:00 PM
                             [**2175-2-11**]  09:26 PM
                             [**2175-2-12**]  05:35 AM
   WBC
   11.9
   11.6
   12.2
   12.7
   12.6
   13.5
   Hct
   23.3
   20.4
   25.2
   23.1
   23.0
   22.9
   24.2
   Plt
   298
   224
   198
   180
   195
   196
   Cr
   2.5
   1.8
   1.7
   1.4
   TCO2
   19
   21
   20
   Glucose
   107
   106
   110
   154
   Other labs: PT / PTT / INR:25.5/62.2/2.5, ALT / AST:34/57, Alk Phos / T
   Bili:123/6.6, Differential-Neuts:75.5 %, Band:0.0 %, Lymph:14.6 %,
   Mono:6.2 %, Eos:3.5 %, Lactic Acid:2.9 mmol/L, Albumin:3.0 g/dL,
   LDH:339 IU/L, Ca++:11.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Microbiology: 2/2 [**Year (4 digits) 229**] culture GPC from admission
   urine neg
   para neg to date
   Assessment and Plan
   1)Neuro/ID- altered mental status, likely hepatic encephalopathy plus
   ARF. Cont Lactulose/Rifaximin. Also possibly from infection given
   bacteremia.
   Has not had head CT- no focal deficit and overall improving, so will
   hold off.
   2)Renal- prerenal- but improved with albumin and IVFs. holding
   diuretics.
   3)Liver- cirrhosis of unclear etiology, followed here by Dr. [**Last Name (STitle) 416**]. As
   above, cont Nadolol.
   4)Heme- anemia, thought due to known portal gastropathy. Received PRBC
   2Units on admission, Hct now stable. Will follow labs for response. No
   clear active bleeding but will follow closely.
   5)Pulm- h/o IPF, not active currently.
   6)FEN- hypercalcemia, check PTH, ?underlying malignancy. will give IVFs
   and follow. check SPEP/UPEP.
   7)ID-GPC in [**Last Name (LF) **], [**First Name3 (LF) 116**] follow up ID/sensi. Cont Vanc. check TTE.
   change Ctx back to Levoflox for pphx.
   8)ICU- Full code, SQH, PPI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2175-2-10**] 11:46 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2175-02-13 07:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: AMS
   24 Hour Events:
   - Liver recs, gave 50 gram of albumin
   - Patient had wheezes, ? stridor, received nebs and racemic epi
   inhalation.
   - Concern for LLL PNA, already on vancomycin, broadened coverage by
   changing ceftriaxone to Zosyn
   - She received IVF and lasix for hypercalcemia, PTH is still pending
   - SPEP/UPEP sent given renal failure and hypercalcemia
   - held off on starting tube feed given PNA
   - speech and swallow ordered
   - pulled out NGT partially, unable to advance, already received his
   Lactulose
   - UOP decreased this AM
   Allergies:
   Adhesive (Miscell)
   Skin tears and
   Last dose of Antibiotics:
   Ceftriaxone - [**2175-2-11**] 03:59 AM
   Vancomycin - [**2175-2-12**] 11:00 AM
   Levofloxacin - [**2175-2-12**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2175-2-13**] 04:17 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2175-2-12**] 12:45 PM
   Carafate (Sucralfate) - [**2175-2-12**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2175-2-12**] 08:54 PM
   Pantoprazole (Protonix) - [**2175-2-13**] 04:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from [**Year (4 digits) 4298**] except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-2-13**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.6
C (96
   HR: 78 (78 - 99) bpm
   BP: 111/51(67) {111/51(67) - 153/92(99)} mmHg
   RR: 13 (13 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,565 mL
                                                                    189 mL
   PO:
             TF:
   IVF:
                                                                  2,415 mL
                                                                    189 mL
   Blood products:
                                                                    400 mL
   Total out:
                                                                  3,240 mL
                                                                    340 mL
   Urine:
                                                                  1,740 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    325 mL
                                                                   -151 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///18/
   Physical Examination
   gen: resting, jaundiced, nad
   heent: scleral icteris
   pulm: bilateral rales, L>R
   abd: distended, soft, nontender
   extr: no c/c/e
   neuro: oriented x [**1-24**], answers appropriately
   Labs / Radiology
   186 K/uL
   7.5 g/dL
   129 mg/dL
   1.6 mg/dL
   18 mEq/L
   4.0 mEq/L
   56 mg/dL
   115 mEq/L
   147 mEq/L
   22.1 %
   12.3 K/uL
        [image002.jpg]
                             [**2175-2-10**]  09:44 PM
                             [**2175-2-11**]  03:31 AM
                             [**2175-2-11**]  04:24 AM
                             [**2175-2-11**]  11:49 AM
                             [**2175-2-11**]  05:00 PM
                             [**2175-2-11**]  09:26 PM
                             [**2175-2-12**]  05:35 AM
                             [**2175-2-12**]  03:53 PM
                             [**2175-2-12**]  09:15 PM
                             [**2175-2-13**]  04:37 AM
   WBC
   12.2
   12.7
   12.6
   13.5
   12.0
   13.5
   12.3
   Hct
   25.2
   23.1
   23.0
   22.9
   24.2
   21.1
   21.0
   22.1
   Plt
   198
   180
   195
   196
   188
   199
   186
   Cr
   1.8
   1.7
   1.4
   1.4
   1.6
   TCO2
   21
   20
   Glucose
   106
   110
   154
   107
   129
   Other labs: PT / PTT / INR:28.2/78.6/2.8, ALT / AST:24/46, Alk Phos / T
   Bili:56/13.9, Differential-Neuts:75.5 %, Band:0.0 %, Lymph:14.6 %,
   Mono:6.2 %, Eos:3.5 %, Lactic Acid:2.9 mmol/L, Albumin:5.0 g/dL,
   LDH:320 IU/L, Ca++:10.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   68 yo male with PMH of cirrhosis and AMS, worsening renal failure, and
   anemia.
   # AMS: Given history and complaints, most likely etiology is hepatic
   encephalopathy.  Also has coag neg staph in 2 BCx which could
   precipitate hepatic encephalopathy.  BCx since have been negative.  Had
   a positive UA, but UCx negative.  Now with ? pna on CXR, on vanc
   zosyn.  Paracentesis fluid NGTD and did not meet criteria for SBP by
   WBC.  GIB is also a risk factor and he has esophageal varices by
   history, though there is no history of BRBPR, melena, or hematemesis.
   He is anemic, required 2U pRBCs shortly after [**Year (4 digits) 4298**].  Continued
   improvement in MS [**First Name (Titles) 4059**] [**Last Name (Titles) 4298**] with Lactulose.  Now taking PO and ok
   for diet with thickened liquids per s/s.
   - lactulose 60 TID PO, titrate for BMs
   - Rifaximin
   - infectious workup and continue antbiotics for bacteremia and ? pna,
   though could be pulm edema as he has been afebrile and his WBC is
   trending down.  Cont to cover with vanc/zosyn for now.  Will need to
   restart levo home prophylactic dose when zosyn is stopped.
   - follow anemia as below
   .
   # bacteremia: GPCs in blood. Antibiotics as above.
   - cont vanc
   - ECHO for vegetations
   .
   # Renal failure: initially concerning for hepatorenal syndrome.  Fena
   0.4 suggesting prerenal component.  Has responded to albumin and fluid,
   so not likely hepatorenal.  Near baseline but worsened yesterday to
   today.  Decreased UOP this AM.
   - albumin 50g today and prn
   - careful with volume resuscitation given possibility for volume
   overload
   - avoid diuretics if possible
   - follow
   .
   # cirrhosis: unknown etiology though autoimmune thought likely with
   iron overload.  Liver following.
   - tx of hepatic encephalopathy and possible hepatorenal syndrome as
   above
   - cont nadolol
   .
   # Hypernatremia:
   - careful d5W repletion
   .
   # Anemia: known portal gastropathy.  HCT trending down here.  Guaiac
   positive, though no gross blood/melena.  No suggestion of large
   variceal bleed. Received 2U pRBCs upon [**Last Name (Titles) 4298**].  Roughly stable.
   - maintain type and screen
   - maintain IV access
   - transfuse pRBCs for HCT < 21
   - PM HCT
   - if significant drop, must consider variceal bleed as possible cause.
    .
   # Hypercalcemia: unclear cause.  Has known liver lesion, ? mets.  Also,
   with anemia, renal failure, and hypercalcemia, multiple myeloma is a
   consideration
   - f/u spep/upep
   - pm lytes
   - PTH nl
   .
   # IPF: followed by pulmonology.  not thought to be contraindication for
   transplant in him.
   - follow
   .
   # HTN: on no treatment at home and not HTN here
   .
   # PAD: s/p stent.  No acute issues.
   .
   # FEN: NPO, replete lytes prn
   .
   # prophylaxis: d/c sc heparin.  PPI
   .
   # Code: full
   .
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2175-2-10**] 11:46 AM
   20 Gauge - [**2175-2-12**] 05:30 PM
   Prophylaxis:
   DVT: therapeutic INR
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   FEN: S/S recommending nectar thick liquids
   Dispo: call out to hepatorenal
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 1854**], MD
   on:[**2175-2-13**] 13:03 ------

2175-02-13 11:30:00 Physician Attending Progress Note
Chief Complaint: Encephalopathy, coag neg staph bacteremia, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   albumin for HRS
   Racemic epi and nebs for stridor.
   CXR with pneumonia
   Decreased UO this am
   Allergies:
   Adhesive (Miscell)
   Skin tears and
   Last dose of Antibiotics:
   Ceftriaxone - [**2175-2-11**] 03:59 AM
   Levofloxacin - [**2175-2-12**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2175-2-13**] 04:17 AM
   Vancomycin - [**2175-2-13**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2175-2-12**] 12:45 PM
   Carafate (Sucralfate) - [**2175-2-12**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2175-2-12**] 08:54 PM
   Pantoprazole (Protonix) - [**2175-2-13**] 04:17 AM
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-2-13**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.1
   HR: 74 (74 - 99) bpm
   BP: 93/55(65) {93/51(65) - 153/92(99)} mmHg
   RR: 15 (12 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,565 mL
                                                                    422 mL
   PO:
             TF:
   IVF:
                                                                  2,415 mL
                                                                    422 mL
   Blood products:
                                                                    400 mL
   Total out:
                                                                  3,240 mL
                                                                    420 mL
   Urine:
                                                                  1,740 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    325 mL
                                                                      2 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///18/
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: icterus
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   upper airway sounds
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, Jaundice, ecchymoses
   Neurologic: Attentive, confused but consistently states it is [**2167**]
   Labs / Radiology
   7.5 g/dL
   186 K/uL
   129 mg/dL
   1.6 mg/dL
   18 mEq/L
   4.0 mEq/L
   56 mg/dL
   115 mEq/L
   147 mEq/L
   22.1 %
   12.3 K/uL
        [image002.jpg]
                             [**2175-2-10**]  09:44 PM
                             [**2175-2-11**]  03:31 AM
                             [**2175-2-11**]  04:24 AM
                             [**2175-2-11**]  11:49 AM
                             [**2175-2-11**]  05:00 PM
                             [**2175-2-11**]  09:26 PM
                             [**2175-2-12**]  05:35 AM
                             [**2175-2-12**]  03:53 PM
                             [**2175-2-12**]  09:15 PM
                             [**2175-2-13**]  04:37 AM
   WBC
   12.2
   12.7
   12.6
   13.5
   12.0
   13.5
   12.3
   Hct
   25.2
   23.1
   23.0
   22.9
   24.2
   21.1
   21.0
   22.1
   Plt
   198
   180
   195
   196
   188
   199
   186
   Cr
   1.8
   1.7
   1.4
   1.4
   1.6
   TCO2
   21
   20
   Glucose
   106
   110
   154
   107
   129
   Other labs: PT / PTT / INR:28.2/78.6/2.8, ALT / AST:24/46, Alk Phos / T
   Bili:56/13.9, Differential-Neuts:75.5 %, Band:0.0 %, Lymph:14.6 %,
   Mono:6.2 %, Eos:3.5 %, Lactic Acid:2.9 mmol/L, Albumin:4.0 g/dL,
   LDH:320 IU/L, Ca++:10.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR: new bibasilar infiltrates with alelectasis and pulm edema
   Microbiology: UCx: neg
   Perit fluid: neg
   Blood cxs: coag neg staph, neg since then
   Assessment and Plan
 PNEUMONIA, OTHER
 BACTEREMIA
 HEPATIC ENCEPHALOPATHY
 IMPAIRED SKIN INTEGRITY
   68M cirrhosis admitted w/ change in MS, appears to be hepatic
   encephalopathy which has improved with lactulose. He has Coag neg staph
   bacteremia on [**1-23**] blood cultures from [**2-9**].  Renal function has
   improved with albumin. Patient has repeatedly pulled out NG;
   fortunately, can now have nectar thick and solids. Overall improvement
   but remains ill.
   ID: Vanc and Zosyn, d/c latter in a few days since no apparent GNR
   infection and restart SBP ppx with home levoflox dose. Check Vanc level
   today.
   GI: Rx for hepatic encephalopathy, mental status much improved.
   Decreased UO: Came with HRS, now in mild pulm edema, give albumin and
   see response, had mild pulm edema on CXR
   Hypercalcemia: check SPEP/UPEP. 3 pm lytes.
   IPF: on RA
   INR 2.8, d/c sq heparin
   Rest per resident note
   ICU Care
   Nutrition: advance diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2175-2-10**] 11:46 AM
   20 Gauge - [**2175-2-12**] 05:30 PM
   Prophylaxis:
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU, call out today
   Total time spent: 35
   Patient is critically ill